US05405995
3,5-Dichlorophthalic acid (3.36 g, preparation given in Example 1 of U.S. Pat. No. 5,086,188) was refluxed with 10 mL of xylenes while the water generated from the cyclization was collected in a Barrett trap. After refluxing for 5 hours the reaction was cooled, and the xylenes were removed under vacuum. The resultant solids were dried overnight in a vacuum desiccator to give 2.32 g of 3,5-dichlorophthalic anhydride, mp 90° to 94° C.

reactant | 3,5-Dichlorophthalic acid | ClC1=C(C(C(=O)O)=CC(=C1)Cl)C(=O)O | C8H4Cl2O4
solvent | water | O | H2O
product | 3,5-dichlorophthalic anhydride | 2.32 g | ClC1=C2C(C(=O)OC2=O)=CC(=C1)Cl | C8H2Cl2O3
